US07074801B1
6-Bromo-4-(4-methylpiperazin-1-yl)quinoline
A mixture of 485 mg 6-bromo-4-chloroquinoline, 1.1 mL N-methyl piperazine, 415 mg potassium carbonate and 10 mL N,N-dimethylformamide was stirred at 130° C. for 8 hours. Ethyl acetate and water were added to the reaction solution, and the organic layer was separated. The organic layer was washed with water and brine and dried over an hydrous magnesium sulfate. The drying agent was filtered off, and the filtrate was evaporated. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give 502 mg of the title compound as pale yellow crystals.

reactant | 6-bromo-4-chloroquinoline | 485 mg | BrC=1C=C2C(=CC=NC2=CC1)Cl | C9H5BrClN
reactant | N-methyl piperazine | 1.1 mL | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | 415 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Bromo-4-(4-methylpiperazin-1-yl)quinoline | 502 mg | BrC=1C=C2C(=CC=NC2=CC1)N1CCN(CC1)C | C14H16BrN3
